US06462069B2
4-{5-[7-(3-Methoxy-phenyl)-benzo[b]thiophen-3-yl]-1H-pyrazol-3-ylamino]-benzenesulfonamide (130 mg, 0.27 mmol) and pyridinium chloride (1.3 g) were combined in a sealed tube and heated at 180° C. for 2 h. The reaction was cooled, quenched with saturated NaHCO3 solution until the solid clump was broken up, and extracted with EtOAc (60 mL). Organics were washed with brine (25 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography gave 86 mg (68%) of 4-{5-[7-(3-hydroxy-phenyl)-benzo[b]thiophen-3-yl]-1H-pyrazol-3-ylamino]-benzenesulfonamide as a white solid. 1H NMR (300 MHz, DMSO-d6) δ12.67 (s, 1H), 9.72 (s, 1H), 9.13 (s, 1H), 8.04 (s, 1H), 8.01 (s, 1H), 7.58-7.67 (m, 3H), 7.45-7.51 (m, 3H), 7.36 (t, 1H, J=7.8 Hz), 7.06-7.14 (m, 4H), 6.87 (d, 1H, J=7.5 Hz), 6.33 (s, 1H). Anal. (C23H18N4O3S2.0.1 H2O) C, H, N, S. Calculated C=59.49; H=3.95; N=12.07; S=13.81; found C=59.51; H=3.95; N=12.20; S=13.63.

reactant | 4-{5-[7-(3-Methoxy-phenyl)-benzo[b]thiophen-3-yl]-1H-pyrazol-3-ylamino]-benzenesulfonamide | 0.27 mmol, 130 mg | COC=1C=C(C=CC1)C1=CC=CC2=C1SC=C2C2=CC(=NN2)NC2=CC=C(C=C2)S(=O)(=O)N | C24H20N4O3S2
reactant | pyridinium chloride | 1.3 g | [Cl-].[NH+]1=CC=CC=C1
product | 4-{5-[7-(3-hydroxy-phenyl)-benzo[b]thiophen-3-yl]-1H-pyrazol-3-ylamino]-benzenesulfonamide | 86 mg, 68% | OC=1C=C(C=CC1)C1=CC=CC2=C1SC=C2C2=CC(=NN2)NC2=CC=C(C=C2)S(=O)(=O)N | C23H18N4O3S2
